US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.50 g) as starting compound, potassium carbonate (0.75 g) and 6-bromo-1-(3-benzo[b]thienyl)-1-hexanone (0.42 g) were reacted and treated in the same manner as in Example 172 to give 0.32 g of 4-amino-5-chloro-N-((1-(6-(3-benzo[b]thienyl)-6-oxohexyl)piperidin-4-yl)-methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 0.50 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-1-(3-benzo[b]thienyl)-1-hexanone | 0.42 g | BrCCCCCC(=O)C=1C2=C(SC1)C=CC=C2 | C14H15BrOS
product | 4-amino-5-chloro-N-((1-(6-(3-benzo[b]thienyl)-6-oxohexyl)piperidin-4-yl)-methyl)-2-methoxybenzamide | 0.32 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C=2C3=C(SC2)C=CC=C3)C=C1Cl)OC | C28H34ClN3O3S
